US04418207
A mixture of 87 grams (1.5 mols) of allyl alcohol and 1 milliliter of boron trifluoride-diethyl etherate is heated to 55° C. in a reaction vessel provided with reflux condenser, thermometer and dropping funnel. To this mixture are constantly added 71 grams (0.5 mol) of methacrylic acid-glycidyl ester within 80 minutes. The reaction is exothermic. Subsequently the reaction mixture is rectified via a 40 centimeter silver-coated column, in which process 57 grams of unreacted allyl alcohol are at first distilled off at 25° C. and a pressure of 16 millibars. By a subsequent distillation at 0.3 millibar there are obtained 61.8 grams (61.8% of the theory) of (3-methacryloyloxy-propyl)-allyl ether having a boiling point of 99° C. and a refractive index nD20 =1.4120.

reactant | allyl alcohol | 1.5 mols, 87 grams | C(C=C)O | C3H6O
reactant | methacrylic acid-glycidyl ester | 0.5 mol, 71 grams | C(C1CO1)OC(C(=C)C)=O | C7H10O3
reactant | allyl alcohol | 57 grams | C(C=C)O | C3H6O
catalyst | silver | [Ag] | Ag
product | (3-methacryloyloxy-propyl)-allyl ether | C(C(=C)C)(=O)OCCCOCC=C | C10H16O3
